US06583135B2
tert-Butyl 6-(2-aminoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0336 g, 0.102 mmol) was dissolved in CH2Cl2 (2 mL) at rt. CF3CO2H (1 mL) was added and the reaction mixture was stirred for 4 h. The reaction mixture was concentrated and the residue was taken up in EtOAc (2 mL). HCl in Et2O (1 N) and MeOH were added and the mixture was concentrated to give crude 2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethanamine dihydrochloride (0.0339 g). 1H NMR (300 MHz, DMF-d7) δ 3.48-3.51, 3.53-3.59, 3.65-3.70, 3.75-3.79, 4.94, 7.27, 7.35, 7.72, 7.91; MS (ESI+) for C14H19N3 m/z 230.2 (M+H)+.

reactant | tert-Butyl 6-(2-aminoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.102 mmol, 0.0336 g | NCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H27N3O2
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethanamine dihydrochloride | 0.0339 g | Cl.Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CCN | InChI=1S/C14H19N3.2ClH/c15-7-10-17-13-4-2-1-3-11(13)12-5-8-16-9-6-14(12)17;;/h1-4,16H,5-10,15H2;2*1H
